US06545009B1
In the same manner as in Example 74, methyl 4-thiocarbamoylbenzoate was reacted with 3-bromoacetyl-2,5-dichlorothiophene to obtain methyl 4-[4-(2,5-dichloro-3-thienyl)-2-thiazolyl]benzoate. The product was recrystallized from ethanol. Yield: 74%. Pale yellow prisms. Melting point: 149 to 150° C.

reactant | methyl 4-thiocarbamoylbenzoate | C(N)(=S)C1=CC=C(C(=O)OC)C=C1 | C9H9NO2S
reactant | 3-bromoacetyl-2,5-dichlorothiophene | BrCC(=O)C1=C(SC(=C1)Cl)Cl | C6H3BrCl2OS
product | methyl 4-[4-(2,5-dichloro-3-thienyl)-2-thiazolyl]benzoate | Yield: 74% | ClC=1SC(=CC1C=1N=C(SC1)C1=CC=C(C(=O)OC)C=C1)Cl | C15H9Cl2NO2S2
